US08445480B2
Step B. 4-{[({1-[4-(Trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)amino]carbonyl}benzoic acid
Methyl 4-{[({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)amino]carbonyl}benzoate was dissolved in 24 ml of tetrahydrofuran, 23 ml of methanol, and 23 ml of water. To this solution was added lithium hydroxide (817 mg) and the mixture was stirred at 50° C. for 1.25 h. The solvents were removed in vacuo and the residue was taken up in 1 N HCl (70 ml) and 70 ml of ethyl acetate. The mixture was sonicated until the solid residue mostly dissolved in the ethyl acetate. The two phases were separated, and any remaining product in the aqueous layer was extracted out with ethyl acetate (70 ml). The organic layers were combined, washed with brine (20 ml), and concentrated in vacuo to yield the title compound (1.09 g, 81%). Mass spectrum (ESI) 409.1 (M+1).

reactant | Methyl 4-{[({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)amino]carbonyl}benzoate | FC(C1=NC(=NC=C1)N1CCC(CC1)CNC(=O)C1=CC=C(C(=O)OC)C=C1)(F)F | C20H21F3N4O3
reactant | methanol | 23 ml | CO | CH4O
reactant | water | 23 ml | O | H2O
reactant | lithium hydroxide | 817 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | 4-{[({1-[4-(Trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)amino]carbonyl}benzoic acid | 1.09 g, 81% | FC(C1=NC(=NC=C1)N1CCC(CC1)CNC(=O)C1=CC=C(C(=O)O)C=C1)(F)F | C19H19F3N4O3
